US06610711B2
A solution of 4-methyl-4-(3-(1-methylethoxy)phenyl)-1-piperidinecarboxylic acid phenyl ester (Preparation 52, 2.4 g, 6.80 mmol) in 1:1 47% aqueous hydrobromic acid:glacial acetic acid (8 ml) was heated under reflux for 16 h. The solution was allowed to cool to room temperature and water (5 ml) was added. The aqueous layer was extracted with methyl tert-butyl ether (3×10 ml) to remove phenol as by-product. The pH was adjusted to 10.3-10.5 with 15% w:v aqueous sodium hydroxide solution and the mixture was left at room temperature for 2 h to allow the product to precipitate. After cooling to 0° C. the precipitate was filtered and washed with cold water (5 ml) to give 4-(3-hydroxyphenyl)-4-methylpiperidine as a solid (776 mg, 60%).

reactant | 4-methyl-4-(3-(1-methylethoxy)phenyl)-1-piperidinecarboxylic acid phenyl ester | 6.80 mmol, 2.4 g | C1(=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC(=CC=C1)OC(C)C)C | C22H27NO3
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 4-(3-hydroxyphenyl)-4-methylpiperidine | 776 mg, 60% | OC=1C=C(C=CC1)C1(CCNCC1)C | C12H17NO
